US07723349B2
Sodium nitrite (0.56 g) in water(2.0 mL) was slowly added to a mixture of 2-methyl-5-bromoaniline (1.50g) in tetrafluoroboric acid (6.0 mL) and water (4.0 mL) at 0-5° C. After addition, the reaction was stirred at room temperature for 30 min. The mixture was cooled to 0° C., filtered, washed with cold water, cold methanol and ether. The mixture was then dried to provide the product 5-bromo-2-methylphenyldiazonium tetrafluroborate (1.90 g).

reactant | Sodium nitrite | 0.56 g | N(=O)[O-].[Na+]
reactant | 2-methyl-5-bromoaniline | 1.50g | CC1=C(N)C=C(C=C1)Br | C7H8BrN
reactant | tetrafluoroboric acid | 6.0 mL | F[B-](F)(F)F.[H+]
solvent | water | 2.0 mL | O | H2O
solvent | water | 4.0 mL | O | H2O
product | 5-bromo-2-methylphenyldiazonium tetrafluroborate | 1.90 g | F[B-](F)(F)F.BrC=1C=CC(=C(C1)[N+]#N)C | InChI=1S/C7H6BrN2.BF4/c1-5-2-3-6(8)4-7(5)10-9;2-1(3,4)5/h2-4H,1H3;/q+1;-1
